US08580762B2
N-(2,4-dimethoxybenzyl)-7-((3aS,4R,6R,6aR)-6-((isopropyl(3-(2-(5-(trifluoromethoxy)-1H-benzo[d]imidazol-2-yl)ethyl)cyclobutyl)amino)methyl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine
N-(2-amino-4-(trifluoromethoxy)phenyl)-3-(3-((((3aR,4R,6R,6aS)-6-(4-((2,4-dimethoxybenzyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)methyl)(isopropyl)amino)cyclobutyl)propanamide (1.4 g, 1.8 mmol) was heated in AcOH at 60° C. overnight. The reaction mixture was concentrated in vacuo giving the crude product.

reactant | N-(2-amino-4-(trifluoromethoxy)phenyl)-3-(3-((((3aR,4R,6R,6aS)-6-(4-((2,4-dimethoxybenzyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)methyl)(isopropyl)amino)cyclobutyl)propanamide | 1.8 mmol, 1.4 g | NC1=C(C=CC(=C1)OC(F)(F)F)NC(CCC1CC(C1)N(C(C)C)C[C@H]1C[C@H]([C@@H]2OC(O[C@@H]21)(C)C)N2C=CC1=C2N=CN=C1NCC1=C(C=C(C=C1)OC)OC)=O | C41H52F3N7O6
solvent | AcOH | CC(=O)O | C2H4O2
product | N-(2,4-dimethoxybenzyl)-7-((3aS,4R,6R,6aR)-6-((isopropyl(3-(2-(5-(trifluoromethoxy)-1H-benzo[d]imidazol-2-yl)ethyl)cyclobutyl)amino)methyl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine | COC1=C(CNC=2C3=C(N=CN2)N(C=C3)[C@@H]3C[C@@H]([C@H]2OC(O[C@H]23)(C)C)CN(C2CC(C2)CCC2=NC3=C(N2)C=CC(=C3)OC(F)(F)F)C(C)C)C=CC(=C1)OC | C41H50F3N7O5
